US07700594B2
4,7-Dimethoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole
Prepared according to a procedure analogous to that described for 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole using 4,7-dimethoxy-1H-indole.

reactant | 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | ClC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
reactant | 4,7-dimethoxy-1H-indole | COC1=C2C=CNC2=C(C=C1)OC | C10H11NO2
product | 4,7-Dimethoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | COC1=C2C=C(NC2=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C | C16H22BNO4
